US05672702
To a suspension of 13.6 g (0.1 mol) of benzofuroxan in a mixture of 40 ml of methanol and 40 ml of water at 20° C. are added in portions 17.2 g (0.2 mol) of disodium cyanamide. In the course of addition, the temperature rises to 50° C.-60° C. and the solution assumes a blue-violet color. It is stirred for a further 40 minutes at about 60° C. and the precipitate which separates out is then removed by filtration from the mother liquor, which is retained and processed further. The precipitate is dissolved in water, the solution is filtered and the filtrate is acidified with acetic acid, whereupon 12.5 g of 3-amino-1,2,4-benzotriazine-1,4,-di-N-oxide (71% of theory) separates out in the form of reddish-golden crystals which melt, with decomposition, at 220° C. On acidifying the mother liquor with acetic acid, a further 3.2 g (18% of theory) of 3-amino-1,2,4-benzotriazine is obtained and after re-crystallization from dimethylformamide, this material melts, with decomposition, at 220° C. Total yield reported is: 89% of theory.

reactant | benzofuroxan | 0.1 mol, 13.6 g | C1=CC2=NO[N+](=C2C=C1)[O-] | C6H4N2O2
reactant | disodium cyanamide | 0.2 mol, 17.2 g | N#CN.[Na].[Na]
solvent | methanol | 40 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
product | 3-amino-1,2,4-benzotriazine | 3.2 g, 18% | NC=1N=NC2=C(N1)C=CC=C2 | C7H6N4
